US07538123B2
160 mg of 7-allyl-6-methoxy-1-methyl-1,4-dihydrobenz[d][1,3]oxazin-2-one was dissolved in 20 ml of t-butanol-water (1:1). Thereafter, 0.96 g of AD-mix-β was added to the reaction solution, and the obtained mixture was then stirred at room temperature overnight. Thereafter, 1.03 g of sodium sulfite was added to the reaction solution while cooling on ice, and the obtained mixture was stirred at room temperature for 1 hour. A saturated sodium chloride aqueous solution was added to the reaction solution, followed by extraction with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 280 mg of 7-(2,3-dihydroxypropyl)-6-methoxy-1-methyl-1,4-dihydrobenz[d][1,3]oxazin-2-one. This compound was used in the following reaction without further purification.

reactant | 7-allyl-6-methoxy-1-methyl-1,4-dihydrobenz[d][1,3]oxazin-2-one | 160 mg | C(C=C)C=1C(=CC2=C(N(C(OC2)=O)C)C1)OC | C13H15NO3
reactant | AD-mix-β | 0.96 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | sodium sulfite | 1.03 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | t-butanol water | 20 ml | C(C)(C)(C)O.O
product | 7-(2,3-dihydroxypropyl)-6-methoxy-1-methyl-1,4-dihydrobenz[d][1,3]oxazin-2-one | 280 mg | OC(CC=1C(=CC2=C(N(C(OC2)=O)C)C1)OC)CO | C13H17NO5
